US07572809B2
(1-Benzyl-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine
To a solution of (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (0.2543 g 1 equiv) in dry THF (2 ml) and NMP (0.2 ml) under Argon was added Fe(acac)3 (acac=acetylacetonate) (46.8 mg 0.15 equiv). The mixture was stirred for 10 min, and then Benzylmagnesium chloride (2M in THF, 0.792 ml 1.8 equiv) was added dropwise. The mixture was stirred at room temperature overnight. The product was purified by HPLC to give 11.5 mg of solid. LC-MS: m/e 345 (MH+).

reactant | (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 0.2543 g, 1 equiv | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | Benzylmagnesium chloride | 2M, 0.792 ml, 1.8 equiv | C(C1=CC=CC=C1)[Mg]Cl
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | NMP | 0.2 ml | CN1CCCC1=O | C5H9NO
product | (1-Benzyl-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 11.5 mg | C(C1=CC=CC=C1)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C21H20N4O
